### PR TITLE
feat: prove injectivity of Fin

### PR DESCRIPTION
**Pull request by alexkeizer**
Prove that the type function `Fin` is injective, 
and use this result to rewrite `cast` and `Eq.rec` into `Fin.cast`

---

The use of `cast` is generally discourages because it is difficult to work with. This PR improves the ergonomics of `cast` with equalites of the form `Fin i = Fin j` specifically, by showing that this implies that `i = j` and adding `simp`-lemmas to rewrite the `cast` into `Fin.cast`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Equiv/Fin.lean [hunk 1]
```diff
@@ -546,3 +547,32 @@ instance subsingleton_fin_zero : Subsingleton (Fin 0) :=
...
+-/
+
+theorem Fin.inj_equiv (eqv : Fin n ≃ Fin m) : n = m := by
+  induction n generalizing m <;> cases m
+  case zero.zero      => rfl
+  case zero.succ      => exact Fin.elim0 <| eqv.symm ⟨0, by simp⟩
+  case succ.zero      => exact Fin.elim0 <| eqv ⟨0, by simp⟩
+  case succ.succ ih _ => rw [ih]; apply Fin.equivOfSuccEquiv eqv
+
+theorem Fin.inj : Fin n = Fin m → n = m :=
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin.lean:569]: We already have this result, it's [`fin_injective`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Fintype/Card.html#fin_injective)

Comment (alexkeizer) [reply Mathlib/Logic/Equiv/Fin.lean:569]: Whoops, so we do. I expected it to be called some variation of `Fin.inj` or `Fin.injective`, so when those did not give any hits on the doc search I assumed we did not have the result yet.
Do you reckon we could/should make [`Fin.cast_eq_cast'`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Fintype/Card.html#Fin.cast_eq_cast') a simp-lemma? The need for injectivity of `Fin` usually comes up when dealing with `cast`, so making that a simp-lemma would make it a lot more discoverable

Comment (eric-wieser) [reply Mathlib/Logic/Equiv/Fin.lean:569]: I think needing injectivity of `Fin` is an XY problem; injectivity of fin can certainly help you get out of a mess, but I think you can always avoid getting into that mess in the first place.
